US05585394
A) 4-Chloro-2-[(3-chlorophenyl)amino]-1-nitrobenzene
A mixture of 50 g of 2,4-dichloro-1-nitrobenzene, 40 ml of 3-chloroaniline and 43 g of anhydrous sodium acetate in 220 ml of ethylene glycol is refluxed for 72 hours. After cooling, the precipitate formed is filtered off and washed with water to give 39 g of the expected product after crystallization from iso ether. M.p.=112° C.

reactant | 2,4-dichloro-1-nitrobenzene | 50 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 3-chloroaniline | 40 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium acetate | 43 g | C(C)(=O)[O-].[Na+]
solvent | ethylene glycol | 220 ml | C(CO)O | C2H6O2
product | 4-Chloro-2-[(3-chlorophenyl)amino]-1-nitrobenzene | 39 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC(=CC=C1)Cl | C12H8Cl2N2O2
